US09302991B2
<Step-5>:(R)—N-(1-(5-ethoxy-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 93% yield (0.75 g, colorless oil) from 1-(5-ethoxy-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone (0.58 g, 2.19 mmol, Step-4) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(5-ethoxy-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone | 2.19 mmol, 0.58 g | C(C)OC=1C=C(C=NC1OCC(F)(F)F)C(C)=O | C11H12F3NO3
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(5-ethoxy-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide | 93% yield | C(C)OC=1C=C(C=NC1OCC(F)(F)F)C(C)N[S@](=O)C(C)(C)C | C15H23F3N2O3S
